US07585885B2
5-Difluoromethoxy-isophthalic acid dimethyl ester
React 5-hydroxy-isophthalic acid dimethyl ester (5.88 g, 28 mmol), methyl 2-chloro-2,2-difluoroacetate (5.9 mL, 56 mmol), cesium carbonate (18.2 g, 56 mmol) in methyl ethyl ketone at reflux for 2 days. Cool to room temperature, filter though a filtering agent, wash with ethyl acetate, concentrate and purify (silica gel chromatography, eluting with 10:90 to 30:70 ethyl acetate:hexanes) to give the title compound (2.7 g, 37%).

reactant | 5-hydroxy-isophthalic acid dimethyl ester | 28 mmol, 5.88 g | COC(C1=CC(C(=O)OC)=CC(=C1)O)=O | C10H10O5
reactant | methyl 2-chloro-2,2-difluoroacetate | 56 mmol, 5.9 mL | ClC(C(=O)OC)(F)F | C3H3ClF2O2
reactant | cesium carbonate | 56 mmol, 18.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | 5-Difluoromethoxy-isophthalic acid dimethyl ester | 2.7 g, 37% | COC(C1=CC(C(=O)OC)=CC(=C1)OC(F)F)=O | C11H10F2O5
